US06022894
EXAMPLE 40: Preparation of N-(2-Hydroxy-3-hexanoxypropyl)-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine.
Using the method of Example 5, supra, 1-hexyl glycidyl ether (175 mg, 1.0 mmol) and 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine (197 mg, 1.1 mmol) were used to prepare 95 mg of the title compound as a clear, colorless oil: GC/EI-MS, m/z (rel. int.) 216 (M-121), 163 (11), 121 (22), 114 (14); 1H-NMR (CDCl3) δ 7.05 (2H, d, J=8.7), 6.79 (2H, d, J=8.7), 3.77 (1H, m), 3.75 (3H, s), 3.41 (4H, m), 2.97 (2H, broad), 2.79 (1H, dd, J=11.7 and 4.1), 2.64 (3H, m), 1.52 (2H, m), 1.26 (6H, m), 1.04 (3H, s), 1.03 (3H, s), 0.85 (3H, t, J=6.7); 13C-NMR (CDCl3) δ 158.1, 131.3, 129.9, 113.4, 73.4, 71.7, 68.9, 55.1, 53.6, 46.3, 44.6, 31.6, 29.5, 26.5, 26.4, 25.7, 22.6, 14.0; FT-IR, cm-1 3405 (broad), 1611, 1512, 1245, 1116, 824.

reactant | 1-hexyl glycidyl ether | 1.0 mmol, 175 mg | C(C1CO1)OCCCCCC | C9H18O2
reactant | 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 1.1 mmol, 197 mg | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
product | N-(2-Hydroxy-3-hexanoxypropyl)-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 95 mg | OC(CNC(CC1=CC=C(C=C1)OC)(C)C)COCCCCCC | C20H35NO3
